US20010053783A1
8-Amino-1,2,3,4-tetrahydroquinoline
8-Nitroquinoline (25 g, 0.143 mol) was dissolved in acetic acid (300 mL) and catalytically hydrogenated over PtO2 (0.75 g) at 65 psi overnight at room temperature. The catalyst was removed by filtration through a celite pad and the solvent was removed by evaporation. The residue was dissolved in CH2Cl2 and saturated aqueous sodium hydrogen carbonate added. The organics were extracted with CH2Cl2 and the extracts were washed with water (3×100 mL) and brine (3×100 mL). The extracts were then dried over anhydrous magnesium sulphate, filtered and evaporated to leave the crude product as a brown oil. This was immediately dissolved in CH2Cl2 and filtered through a short pad of silica eluting with ethyl acetate to leave the title compound.

reactant | 8-Nitroquinoline | 0.143 mol, 25 g | [N+](=O)([O-])C=1C=CC=C2C=CC=NC12 | C9H6N2O2
solvent | acetic acid | 300 mL | C(C)(=O)O | C2H4O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | PtO2 | 0.75 g | O=[Pt]=O
product | 8-Amino-1,2,3,4-tetrahydroquinoline | NC=1C=CC=C2CCCNC12 | C9H12N2
